US07074800B1
To a solution of 7-hydroxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline (102 mg, 0.32 mmol), 4-(3-hydroxypropyl)morpholine (70 mg, 0.48 mmol), (prepared as described for the starting material in Example 60), triphenylphosphine (168 mg, 0.64 mmol) in methylene chloride (1 ml) and DMF (0.5 ml) cooled at 4° C. was added a solution of diethyl azodicarboxylate (101 μl; 0.64 mmol) in methylene chloride (0.4 ml). The mixture was stirred for 12 hours at 4° C. and overnight at ambient temperature. The mixture was poured onto a column of silica (IST isolute® 10 g of silica) and was eluted with methylene chloride (15 ml) followed by 5% methanol in methylene chloride (45 ml) followed by 5% methanol (saturated with ammonia) in methylene chloride (30 ml) followed by 10% methanol (saturated with ammonia) in methylene chloride (45 ml) followed by 15% methanol (saturated with ammonia) in methylene chloride (30 ml). The fractions containing the expected product were evaporated to give 6-methoxy-4-(2-methylindol-5-ylamino)-7-(3-morpholinopropoxy)quinazoline (63 mg, 44%).

reactant | 7-hydroxy-6-methoxy-4-(2-methylindol-5-ylamino)quinazoline | 0.32 mmol, 102 mg | OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C=C(NC2=CC1)C)OC | C18H16N4O2
reactant | 4-(3-hydroxypropyl)morpholine | 0.48 mmol, 70 mg | OCCCN1CCOCC1 | C7H15NO2
reactant | triphenylphosphine | 0.64 mmol, 168 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.64 mmol, 101 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 0.4 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-4-(2-methylindol-5-ylamino)-7-(3-morpholinopropoxy)quinazoline | 63 mg, 44% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)NC=1C=C2C=C(NC2=CC1)C | C25H29N5O3
